US03965095
EXAMPLE 6: 4-(2-benzoyloxy-3-tert-butylaminopropoxy)oxindole [process variant a)]
1 g of 4-(3-tert-butylamino-2-hydroxypropoxy)oxindole is dissolved in 20 cc of hexamethylphosphoric acid triamide and the solution is allowed to stand at room temperature for 16 hours together with 7.9 g of benzoic acid and 0.9 g of benzoic acid anhydride. The mixture is poured into ice water, is rendered alkaline with a 10% ammonia solution and is extracted with methylene chloride. The title compound is obtained as evaporation residue of the methylene chloride phase; the hydrogen oxalate of the title compound crystallizes from ethanol. M.P. 200°-203°.

reactant | 4-(3-tert-butylamino-2-hydroxypropoxy)oxindole | 1 g | C(C)(C)(C)NCC(COC1=C2CC(NC2=CC=C1)=O)O | C15H22N2O3
reactant | benzoic acid | 7.9 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | benzoic acid anhydride | 0.9 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | ammonia | N | H3N
solvent | hexamethylphosphoric acid triamide | 20 cc | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-(2-benzoyloxy-3-tert-butylaminopropoxy)oxindole | C(C1=CC=CC=C1)(=O)OC(COC1=C2CC(NC2=CC=C1)=O)CNC(C)(C)C | C22H26N2O4
